US08809342B2
To a solution of 4-bromobenzonitrile (4.0 g, 22 mmol) and 4-fluorophenylboronic acid (4.6 g, 32 mmol) in 4:1 toluene:water (100 mL) were added potassium fluoride (3.8 g, 66 mmol) and Pd(PPh3)4 (2.5 g, 2.2 mmol). The resulting mixture was stirred at reflux for 12 h. The mixture was cooled to room temperature and extracted with ethyl acetate (30 mL*3). The combined organic layers were washed with water, brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. Purification of the crude residue by silica gel chromatography gave 4′-fluorobiphenyl-4-carbonitrile (4.2 g) as a colorless solid. 1H NMR (400 MHz, CD3OD) δ 7.69 (s, 4H), 7.63-7.60 (m, 2H), 7.15-7.10 (m, 2H).

reactant | 4-bromobenzonitrile | 22 mmol, 4.0 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 4-fluorophenylboronic acid | 32 mmol, 4.6 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | potassium fluoride | 66 mmol, 3.8 g | [F-].[K+]
catalyst | Pd(PPh3)4 | 2.2 mmol, 2.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 mL | O | H2O
product | 4′-fluorobiphenyl-4-carbonitrile | 4.2 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H8FN
